US07932272B2
2,6-Diamino-N-(4-(2-fluoro-benzyloxy)-benzyl)-nicotinamide
2,6-Diamino-nicotinic acid described in Preparation Example A-15 (200 mg, 1.3 mmol), triethylamine (0.54 mL, 3.87 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (862 mg, 1.95 mmol) were added to N,N-dimethylformamide (20 mL), and the solution was stirred at room temperature for 20 minutes. Next, 4 (2-fluoro-benzyloxy)-benzylamine described in Preparation Example 154 (453 mg, 1.96 mmol) was added thereto, and the solution was stirred at room temperature for 14 hours. After the reaction was completed, the reaction solution was poured into brine, the solution was extracted with ethyl acetate, the fractionated organic layer was dried over anhydrous magnesium sulfate and then concentrated. The obtained residue was subjected to silica gel column chromatography, eluted with solvent (ethyl acetate) and the title compound (147 mg, 0.40 mmol, 31%) was obtained.

reactant | 2,6-Diamino-nicotinic acid | NC1=C(C(=O)O)C=CC(=N1)N | C6H7N3O2
reactant | triethylamine | 3.87 mmol, 0.54 mL | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 1.95 mmol, 862 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | (2-fluoro-benzyloxy)-benzylamine | FC1=C(CONCC2=CC=CC=C2)C=CC=C1 | C14H14FNO
solvent | brine | [Cl-].[Na+].O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2,6-Diamino-N-(4-(2-fluoro-benzyloxy)-benzyl)-nicotinamide | 0.40 mmol, 147 mg, 31% | NC1=C(C(=O)NCC2=CC=C(C=C2)OCC2=C(C=CC=C2)F)C=CC(=N1)N | C20H19FN4O2
